US09120749B2
5-{4-[trans-4-Aminocyclohexylamino]-3-isobutyrylquinolin-6-yl}picolinonitrile
Following general procedure A-1, tert-butyl trans-4-[6-(6-cyanopyridin-3-yl)-3-isobutyrylquinolin-4-ylamino]cyclohexylcarbamate (47.7 mg, 0.093 mmol) was reacted with 6 N hydrochloric acid (3 mL) to afford the desired product (20.8 mg, 54%) as a light yellow solid: 1H NMR (500 MHz, CD3OD) δ 9.13-9.11 (m, 1H), 9.06 (s, 1H), 8.55 (d, J=1.8 Hz, 1H), 8.39 (dd, J=8.1, 2.3 Hz, 1H), 8.19 (dd, J=8.7, 1.9 Hz, 1H), 8.04 (d, J=3.8 Hz, 1H), 8.02 (d, J=4.4 Hz, 1H), 4.35-4.27 (m, 1H), 3.82-3.73 (m, 1H), 3.29-3.22 (m, 1H), 2.40 (d, J=12.7 Hz, 2H), 2.19 (d, J=12.1 Hz, 2H), 1.78-1.68 (m, 2H), 1.67-1.56 (m, 2H), 1.25 (d, J=6.8 Hz, 6H); ESI MS m/z 414 [C25H27N5O+H]+; HPLC 98.3% (AUC), tR=7.96 min.

reactant | tert-butyl trans-4-[6-(6-cyanopyridin-3-yl)-3-isobutyrylquinolin-4-ylamino]cyclohexylcarbamate | 0.093 mmol, 47.7 mg | C(#N)C1=CC=C(C=N1)C=1C=C2C(=C(C=NC2=CC1)C(C(C)C)=O)N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C30H35N5O3
reactant | hydrochloric acid | 6 N, 3 mL | Cl | ClH
product | 5-{4-[trans-4-Aminocyclohexylamino]-3-isobutyrylquinolin-6-yl}picolinonitrile | 20.8 mg, 54% | N[C@@H]1CC[C@H](CC1)NC1=C(C=NC2=CC=C(C=C12)C=1C=CC(=NC1)C#N)C(C(C)C)=O | C25H27N5O
